US06888032B2
The general procedure in example 39 was followed. 3-Iodophenol (220 mg, 1.0 mmol), 4-tert-butylthiophenol (168 μL, 1.0 mmol), CuI (10 mg, 0.05 mmol), K2CO3 (276 mg, 2.0 mmol), ethylene glycol (111 μL, 2.0 mmol) and 2-propanol (1.0 mL) were used to obtain the 3-(4-tert-butylphenyl)sulfanylphenol (232 mg, 90% yield) as the colorless oil. Workup procedure: ethyl acetate (approx. 5 mL) and dodecane (227 μL, GC standard) were added to the reaction mixture after the reaction was completed. The organic layer was neutralized by dilute HCl to pH 8. The aqueous layer was extracted by ethyl acetate (4×10 mL). The combined organic layers were concentrated and purified by column chromatography on silica gel using hexane/ethyl acetate=10/1 as the eluent to afford the titled product. Rf=0.2 (hexane/ethyl acetate=10/1) (Note: same Rf value as the starting material). 1H NMR (CDCl3, 300 MHz) δ 7.21-7.34 (m, 2 H), 7.14 (t, 1 H, J=8.1 Hz), 6.95 (t, 1 H, J=8.1 Hz), 6.84-6.88 (m, 1 H), 6.78-6.81 (m, 1 H), 6.64-6.71 (m, 2 H). 13C NMR (CDCl3, 75 MHz) δ 156.0, 132.5, 131.2, 130.3, 130.1, 124.8, 122.1, 116.3, 115.2, 113.8, 35.0, 31.7. IR (neat, cm−1) 3375 (broad), 2962, 2904, 2867. MS (EI) m/z (relative intensity) 258 (100). HRMS (EI), Cald. for C16H18OS, 258.1073. Found 258.1068.

reactant | 3-Iodophenol | 1.0 mmol, 220 mg | IC=1C=C(C=CC1)O | C6H5IO
reactant | 4-tert-butylthiophenol | 1.0 mmol, 168 μL | C(C)(C)(C)C1=CC=C(C=C1)S | C10H14S
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylene glycol | 2.0 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | 3-(4-tert-butylphenyl)sulfanylphenol | 232 mg, 90% yield | C(C)(C)(C)C1=CC=C(C=C1)SC=1C=C(C=CC1)O | C16H18OS
